US08431597B2
(2R,4R)-1-tert-butyl 2-methyl 4-(3-(4-cyanophenyl)ureido)piperidine-1,2-dicarboxylate
4-isocyanatobenzonitrile (1.17 g, 8.13 mmol) was added to a solution of (2R,4R)-1-tert-butyl 2-methyl 4-aminopiperidine-1,2-dicarboxylate (2.0 g, 7.7 mmol) and NEt3 (1.3 mL, 9.3 mmol) in THF (30 mL), and the resulting solution was stirred at room temperature for 6 hours. 1M ammonia in methanol (5 mL) was then added to the reaction mixture to quench excess isocyanine. Water (100 mL) and ethyl acetate (200 mL) were added to the mixture. The organic layer was separated and dried over MgSO4 and concentrated to give a solid. Purification by Companion (ReadySep, 80 g, silica gel packed) using ethyl acetate/heptane from 40-70% as eluent provided the title compound as a white solid 2.9 g (90%). LC-MS: 403.2, 401.3 (t=2.6 min).

reactant | 4-isocyanatobenzonitrile | 8.13 mmol, 1.17 g | N(=C=O)C1=CC=C(C#N)C=C1 | C8H4N2O
reactant | (2R,4R)-1-tert-butyl 2-methyl 4-aminopiperidine-1,2-dicarboxylate | 7.7 mmol, 2.0 g | N[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H22N2O4
reactant | NEt3 | 9.3 mmol, 1.3 mL | CCN(CC)CC | C6H15N
reactant | ammonia | 1M | N | H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | (2R,4R)-1-tert-butyl 2-methyl 4-(3-(4-cyanophenyl)ureido)piperidine-1,2-dicarboxylate | 2.9 g, 90% | C(#N)C1=CC=C(C=C1)NC(N[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC)=O | C20H26N4O5
